US06030972
(a) 2-Methylthio-5-hydroxycarbonylpyrimidine
1 Eq. of 2-methylthio-5-ethoxycarbonylpyrimidine were dissolved in dioxane and, after addition of 2 eq. of 2N LiOH, stirred overnight. The solvent was then removed under reduced pressure, and the residue was dissolved in EtOH. After addition of a stoichiometric amount of ethereal HCl, the solution was again evaporated to dryness. Water which was still present was removed by azeotropic drying with toluene once.

reactant | 2-methylthio-5-ethoxycarbonylpyrimidine | 1 Eq. | CSC1=NC=C(C=N1)C(=O)OCC | C8H10N2O2S
reactant | LiOH | 2N, 2 eq. | [Li+].[OH-]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Methylthio-5-hydroxycarbonylpyrimidine | CSC1=NC=C(C=N1)C(=O)O | C6H6N2O2S
